US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.19 g, 9.86 mmol), 4-[2-(4-morpholinyl)ethoxy]benzaldehyde (3.5 g) and xylenes (10 ml) was heated at 160° C. overnight. p-Toluenesulfonic acid (0.2 g) was added and the mixture was heated at 160° C. overnight. The reaction mixture was cooled to room temperature, and the precipitate which formed was slurried with methanol, collected by filtration and washed with methanol, and then ether. The product was recrystallized from acetonitrile to afford 1-cyclopentyl-3-ethyl-6-[4-[2-(4-morpholinyl)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 9.86 mmol, 2.19 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 4-[2-(4-morpholinyl)ethoxy]benzaldehyde | 3.5 g | N1(CCOCC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
reactant | p-Toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | 1-cyclopentyl-3-ethyl-6-[4-[2-(4-morpholinyl)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=C(C=C2)OCCN2CCOCC2)CC | C24H31N5O3
